US04299823
Preparation of 4-(5-phenylpentylthio)-1-β-D-ribofuranosyl-pyrazolo[3,4-d]pyrimidine
Crude 5-phenylpentyl chloride (1.3 g) was added to a stirred solution of 4-mercapto-1-β-D-ribofuranosylpyrazolo [3,4-d]pyrimidine (2.0 g) and potassium bicarbonate (0.7 g) in N,N-dimethylformamide. The reaction mixture was heated on a steam bath for 25 hours. An additional 0.7 g of potassium bicarbonate was added and after heating for 1 hour more, the mixture was poured into water. The cooled aqueous mixture was extracted with chloroform. The chloroform soluble material was chromatographed on a silica gel column. The fractions containing the compound were combined and evaporated. Trituration with ether gave 0.4 g of crude product. This was dissolved in ethyl acetate and washed with water. The dried ethyl acetate solution was evaporated and purified by reversed phase chromatography in methanol water (80:20 vol/vol) to give 0.28 g of product m.p. 72°-75° C. (indefinite).

reactant | 5-phenylpentyl chloride | 1.3 g | C1(=CC=CC=C1)CCCCCCl | C11H15Cl
reactant | 4-mercapto-1-β-D-ribofuranosylpyrazolo [3,4-d]pyrimidine | 2.0 g | SC1=C2C(=NC=N1)N(N=C2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO | C10H12N4O4S
reactant | potassium bicarbonate | 0.7 g | C([O-])(O)=O.[K+]
reactant | potassium bicarbonate | 0.7 g | C([O-])(O)=O.[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(5-phenylpentylthio)-1-β-D-ribofuranosyl-pyrazolo[3,4-d]pyrimidine | 0.28 g | C1(=CC=CC=C1)CCCCCSC1=C2C(=NC=N1)N(N=C2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO | C21H26N4O4S
